US06559173B1
4-Methyl-3-[(5-phenyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and substituting 3-amino-5-phenylpyrazole for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one (0.110 gms.) is reacted with 0.2398 gms. 3-amino-5-phenylpyrazole by refluxing in tetrahydrofuran (2.5 mL).

reactant | Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC(=C12)C)=O | C10H9NO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-4-methyl-1,3-dihydro-indol-2-one | 0.110 gms | O\C=C\1/C(NC2=CC=CC(=C12)C)=O | C10H9NO2
reactant | 3-amino-5-phenylpyrazole | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 4-Methyl-3-[(5-phenyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | CC1=C2C(C(NC2=CC=C1)=O)=CNC1=NNC(=C1)C1=CC=CC=C1 | C19H16N4O
